US07994185B2
Intermediate 32: N-{3-[5-(2-Chloro-4-pyrimidinyl)-2-(tetrahydro-2H-pyran-4-yl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,5-difluorobenzenesulfonamide
To a solution of 3-[5-(2-chloro-4-pyrimidinyl)-2-(tetrahydro-2H-pyran-4-yl)-1,3-thiazol-4-yl]-2-fluoroaniline (1.24 g, 3.17 mmol) in DCM (31.7 mL) was added pyridine (0.269 mL, 3.33 mmol) and 2,5-difluorobenzenesulfonyl chloride (0.448 mL, 3.33 mmol). The reaction was stirred 18 h at rt. The reaction mixture was concentrated onto silica gel. Purification by chromatography (5 to 100% EtOAc:DCM) afforded the title compound (1.21 g, 2.13 mmol, 67.3% yield) as an off-white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 10.79 (s, 1H), 8.57 (d, J=5.5 Hz, 1H), 7.37-7.67 (m, 5H), 7.32 (t, J=7.9 Hz, 1H), 6.90 (d, J=5.3 Hz, 1H), 3.93 (dd, J=11.4, 2.0 Hz, 2H), 3.39-3.58 (m, 2H), 3.26-3.40 (m, 1H), 1.98-2.09 (m, 2H), 1.63-1.86 (m, 2H). MS (ESI): 567.06 [M+H]+.

reactant | 3-[5-(2-chloro-4-pyrimidinyl)-2-(tetrahydro-2H-pyran-4-yl)-1,3-thiazol-4-yl]-2-fluoroaniline | 3.17 mmol, 1.24 g | ClC1=NC=CC(=N1)C1=C(N=C(S1)C1CCOCC1)C=1C(=C(N)C=CC1)F | C18H16ClFN4OS
reactant | pyridine | 3.33 mmol, 0.269 mL | N1=CC=CC=C1 | C5H5N
reactant | 2,5-difluorobenzenesulfonyl chloride | 3.33 mmol, 0.448 mL | FC1=C(C=C(C=C1)F)S(=O)(=O)Cl | C6H3ClF2O2S
solvent | DCM | 31.7 mL | C(Cl)Cl | CH2Cl2
product | N-{3-[5-(2-Chloro-4-pyrimidinyl)-2-(tetrahydro-2H-pyran-4-yl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,5-difluorobenzenesulfonamide | 2.13 mmol, 1.21 g, 67.3% yield | ClC1=NC=CC(=N1)C1=C(N=C(S1)C1CCOCC1)C=1C(=C(C=CC1)NS(=O)(=O)C1=C(C=CC(=C1)F)F)F | C24H18ClF3N4O3S2
